US07342118B2
2-(Indan-2-ylamino)-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide
2-Amino-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide was reacted with 2-indanone to provide the title compound: C13 NMR (100 MHz, CDCl3) 14.2, 19.5, 24.3, 26.6, 26.7, 36.4, 39.9, 40.6, 56.0, 59.0, 61.4, 67.3, 104.8, 124.9, 125.0, 126.7, 126.8, 131.2, 137.4, 141.2, 141.7, 172.2; MS m/z 424.4 (M+1).

reactant | 2-Amino-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCCC1)(C)N1C=NC(=C1)NC(C(CCC)N)=O | C16H29N5O
reactant | 2-indanone | C1C(CC2=CC=CC=C12)=O | C9H8O
product | 2-(Indan-2-ylamino)-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCCC1)(C)N1C=NC(=C1)NC(C(CCC)NC1CC2=CC=CC=C2C1)=O | C25H37N5O
